US06583180B2
N,N-bis(2-bromobenzyl)-N-(2-methoxy-5-nitrophenyl)amine
2-Methoxy-5-nitroaniline and 1-bromo-2-(bromomethyl)benzene were processed as described in Example 2A to provide the title compound.

reactant | 2-Methoxy-5-nitroaniline | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | 1-bromo-2-(bromomethyl)benzene | BrC1=C(C=CC=C1)CBr | C7H6Br2
product | N,N-bis(2-bromobenzyl)-N-(2-methoxy-5-nitrophenyl)amine | BrC1=C(CN(C2=C(C=CC(=C2)[N+](=O)[O-])OC)CC2=C(C=CC=C2)Br)C=CC=C1 | C21H18Br2N2O3
